US04152441
A solution of 20 ml. 20% butyl lithium in n-hexane (0.043 mol) in 30 ml. of diethyl ether was added dropwise under a nitrogen atmosphere to a solution of 5.5 g (0.032 mol) of 1-phenethylimidazole (J. Am. Chem. Soc., 71, 4000 (1949)) in 100 ml. of diethyl ether. After the addition was completed, the reaction mixture was stirred for another hour at room temperature. Then a solution of 7.8 g (0.036 mol) of 4-chlorobenzophenone in 75 ml. of anhydrous diethyl ether was added dropwise. The reaction mixture was stirred for 3 hours and it was then poured into 200 ml of ice-water. The ethereal layer was separated off, dried over sodium sulphate and the ether was distilled off. The residue was crystallised from a mixture of ethanol and petroleum ether (boiling range 40°-60° C.). α-(p-Chlorophenyl)-1-(phenethyl-α-phenylimidazole-2-methanol was obtained. Melting point 164°-165° C.

reactant | butyl lithium | C(CCC)[Li]
reactant | n-hexane | 0.043 mol | CCCCCC | C6H14
reactant | 1-phenethylimidazole | 0.032 mol, 5.5 g | C(CC1=CC=CC=C1)N1C=NC=C1 | C11H12N2
reactant | 4-chlorobenzophenone | 0.036 mol, 7.8 g | ClC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H9ClO
solvent | diethyl ether | C(C)OCC | C4H10O
product | phenethyl-α-phenylimidazole-2-methanol | C(CC1=CC=CC=C1)C=1N=C(NC1)C(O)C1=CC=CC=C1 | C18H18N2O
